US04674574
Into a 1 liter resin flask fitted with a stirrer, condensor, thermometer, nitrogen inlet and port for adding liquid is placed 425 g of deionized water, 200 g of a 50% solution of acrylamide, 276 g of a 50% solution of AMPS, 30 g of a 40% solution of disodium itaconate and 0.24 g of Versene 100. The solution is stirred and to it added 0.2 g of sodium hypophosphite dissolved in 16 g of deionized water. The solution is stirred, nitrogen introduced sub-surface and the solution then heated to 75° C. by means of an external heating jacket. A solution of 2.5g of sodium persulfate in 50 g of deionized water is prepared and placed in a metering pump connected to the resin flask at the inlet port with a fine tygon tubing. The persulfate solution is added uniformly over a period of 2 hours, maintaining a temperature of 75° C.±2° C. by initially cooling and then warming. At the end of the persulfate addition, 75° C. is maintained for an additional 1 hour, the solution cooled to 40° C. and discharged. The resulting product was a clear, light green-yellow liquid with a solids content of 25%. The viscosity, as measured on a Brookfield viscometer was 7,500 cps, spindle 3, speed 12. The pH of the solution was 7 to 7.6. The molecular weight of the polymer was about 500,000 as measured by GPC. The product was completely water miscible.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | disodium itaconate | C(C(=C)CC(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | sodium hypophosphite | 0.2 g | [PH2](=O)[O-].[Na+]
reactant | tygon | CC(=O)OC=C.C=CCl
reactant | persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-]
solvent | water | 16 g | O | H2O
solvent | water | 50 g | O | H2O
catalyst | Versene 100 | 0.24 g | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
solvent | water | 425 g | O | H2O
product | sodium persulfate | 2.5g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/2Na.H2O8S2/c;;1-9(2,3)7-8-10(4,5)6/h;;(H,1,2,3)(H,4,5,6)/q2*+1;/p-2
